US07842945B2
(iii) Synthesis of 9,10-bis(9,9-dimethylfluorene-2-yl)-2-bromoanthracene
A solution of 46 mmol of 9,10-bis(9,9-dimethylfluorene-2-yl)-2-bromo-9,10-dihydroanthracene-9,10-diol, 24 g (0.23 mol) of sodium phosphinate monohydrate, and 15 g (91 mmol) of potassium iodide in 100 mL of glacial acetic acid was stirred for 4 hours at 120° C. After the reaction, 60 mL of a 50% phosphinic acid was added to the reaction mixture, and then stirring was kept for additional 2 hours at 120° C. Water was added to the mixture, and the mixture was stirred for 1 hour. After the mixture was filtered, the resulting solid was washed with water and dissolved in toluene, and the toluene-solution was washed with a saturated sodium bicarbonate aqueous solution and brine. Magnesium sulfate was added to this organic layer to dry the organic layer. This mixture was subjected to suction filtration, and the filtrate was filtered through celite, Florisil, and then alumina. The filtrate was concentrated, and the resulting solid was dissolved in a mixed solvent of chloroform and methanol, which was followed by irradiating ultrasound to yield 14 g of the title compound as a light yellow solid. Total yield of the steps of (ii) and (iii) was 47%.

reactant | 9,10-bis(9,9-dimethylfluorene-2-yl)-2-bromo-9,10-dihydroanthracene-9,10-diol | 46 mmol | CC1(C2=CC=CC=C2C=2C=CC(=CC12)C1(C2=CC=CC=C2C(C=2C=CC(=CC12)Br)(O)C1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C)O)C | C44H35BrO2
reactant | sodium phosphinate monohydrate | 0.23 mol, 24 g | O.[PH2]([O-])=O.[Na+]
reactant | potassium iodide | 91 mmol, 15 g | [I-].[K+]
reactant | phosphinic acid | [PH2](O)=O | H3O2P
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | 9,10-bis(9,9-dimethylfluorene-2-yl)-2-bromoanthracene | 14 g | CC1(C2=CC=CC=C2C=2C=CC(=CC12)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)Br)C1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C)C | C44H33Br
